* File : standard_snubberless_triacs.lib
* Revision : 10.0
* Date : 14/12/2015
*
**********************************************************************
* Please Read Carefully:
*Information in this document is provided solely in connection with ST products. STMicroelectronics NV and its subsidiaries (“ST”) reserve the
*right to make changes, corrections, modifications or improvements, to this document, and the products and services described herein at any
*time, without notice.
*All ST products are sold pursuant to ST’s terms and conditions of sale.
*Purchasers are solely responsible for the choice, selection and use of the ST products and services described herein, and ST assumes no
*liability whatsoever relating to the choice, selection or use of the ST products and services described herein.
*No license, express or implied, by estoppel or otherwise, to any intellectual property rights is granted under this document. If any part of this
*document refers to any third party products or services it shall not be deemed a license grant by ST for the use of such third party products
*or services, or any intellectual property contained therein or considered as a warranty covering the use in any manner whatsoever of such
*third party products or services or any intellectual property contained therein.
*UNLESS OTHERWISE SET FORTH IN ST’S TERMS AND CONDITIONS OF SALE ST DISCLAIMS ANY EXPRESS OR IMPLIED
*WARRANTY WITH RESPECT TO THE USE AND/OR SALE OF ST PRODUCTS INCLUDING WITHOUT LIMITATION IMPLIED
*WARRANTIES OF MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE (AND THEIR EQUIVALENTS UNDER THE LAWS
*OF ANY JURISDICTION), OR INFRINGEMENT OF ANY PATENT, COPYRIGHT OR OTHER INTELLECTUAL PROPERTY RIGHT.
*UNLESS EXPRESSLY APPROVED IN WRITING BY AN AUTHORIZED ST REPRESENTATIVE, ST PRODUCTS ARE NOT
*RECOMMENDED, AUTHORIZED OR WARRANTED FOR USE IN MILITARY, AIR CRAFT, SPACE, LIFE SAVING, OR LIFE SUSTAINING
*APPLICATIONS, NOR IN PRODUCTS OR SYSTEMS WHERE FAILURE OR MALFUNCTION MAY RESULT IN PERSONAL INJURY,
*DEATH, OR SEVERE PROPERTY OR ENVIRONMENTAL DAMAGE. ST PRODUCTS WHICH ARE NOT SPECIFIED AS "AUTOMOTIVE
*GRADE" MAY ONLY BE USED IN AUTOMOTIVE APPLICATIONS AT USER’S OWN RISK.
*Resale of ST products with provisions different from the statements and/or technical features set forth in this document shall immediately void
*any warranty granted by ST for the ST product or service described herein and shall not create or extend in any manner whatsoever, any
*liability of ST.
*ST and the ST logo are trademarks or registered trademarks of ST in various countries.
*Information in this document supersedes and replaces all information previously supplied.
*The ST logo is a registered trademark of STMicroelectronics. All other names are the property of their respective owners.
*© 2008 STMicroelectronics - All rights reserved
*STMicroelectronics group of companies
*Australia - Belgium - Brazil - Canada - China - Czech Republic - Finland - France - Germany - Hong Kong - India - Israel - Italy - Japan -
*Malaysia - Malta - Morocco - Singapore - Spain - Sweden - Switzerland - United Kingdom - United States of America
*www.st.com
**********************************************************************
*
***************************************************************************
* TRIACs PSpice Models *
***************************************************************************
* Note :
*
* This TRIAC model simulates:
* -Igt (the same for all quadrants) MAX of the specification
*note: for 4 quadrants TRIAC, IGT Q4 is taken into account for all quadrants
* -Il (the same for all quadrants) Typ of the specification
* -Ih (the same for both polarity) Typ of the specification
* -VDRM
* -VRRM
* -(dI/dt)c and (dV/dt)c parameters are simulated only if those
* constraints exceed very highly the specified limits.
* -Power dissipation is realistic and correspond to a typical TRIAC
*
* All these parameters are constant, and don't vary neither with
* temperature nor other parameters.
*
* The "STANDARD" parameter switch between 4 quadrants TRIACs (STANDARD = 1)
* and 3 quadrants TRIACs (STANDARD = 0).
* The "STANDARD" parameter maintains or suppress the triggering possibility of
* the TRIAC in the fourth quadrant, and has absolutely NO EFFECT on other
* parameters.
*
* For a correct triac behavior, the "Maximum step size" must be below
* or equal 20µs.
*
*
*
*$
* pins = A=MT1 K=MT2 G=Gate
.subckt Triac_ST_ A K G PARAMS: Vdrm=400v Igt=20ma Ih=6ma Rt=0.01 Standard=0
*
* Vdrm : Repetitive forward off-state voltage
* Ih : Holding current
* Igt : Gate trigger current
* Rt : Dynamic on-state resistance
* Standard : Differenciation between Snubberless and Standard TRIACs
* (Standard=0 => Snubberless TRIACs, Standard=1 => Standard TRIACs)
*
* Added for Convergence - eetech00@yahoo.com
*C100  A K 10n
****************************
* Power circuit *
****************************
*
****************************
*Switch circuit*
****************************
* Q1 & Q2 Conduction
S_S3 A Plip1 positive 0 Smain
*RS_S3 positive 0 1G
D_DAK1 Plip1 Plip2 Dak
R_Rlip Plip1 Plip2 1k
V_Viak Plip2 K DC 0 AC 0
*
* Q3 & Q4 Conduction
S_S4 A Plin1 negative 0 Smain
*RS_S4 negative 0 1G
D_DKA1 Plin2 Plin1 Dak
R_Rlin Plin1 Plin2 1k
V_Vika K Plin2 DC 0 AC 0
****************************
*Gate circuit*
****************************
R_Rgk G K 10G
D_DGKi Pg2 G Dgk
D_DGKd G Pg2 Dgk
V_Vig Pg2 K DC 0 AC 0
R_Rlig G Pg2 1k
*
****************************
*Interface circuit*
****************************
* positive pilot
R_Rp Controlp positive 2.2
C_Cp 0 positive 1u
BE_IF15OR3 Controlp 0 V=IF(((V(CMDIG)>0.5)|(V(CMDILIH)>0.5)|(V(CMDVdrm)>0.5)),400,0)
*
* negative pilot
R_Rn Controln negative 2.2
C_Cn 0 negative 1u
BE_IF14OR3 Controln 0 V=IF(((V(CMDIG)>0.5)|(V(CMDILIHN)>0.5)|(V(CMDVdrm)>0.5)),400,0)
*
****************************
* Pilots circuit *
****************************
****************************
* Pilot Gate *
****************************
BE_IF1IG inIG 0 V=IF((ABS(I(V_Vig)))>(Igt-1u),1,0)
BE_MULT2MULT CMDIG 0 V=V(Q4)*V(inIG)
BE_IF2Quadrant4 Q4 0 V=IF(((I(V_Vig)>(Igt-0.000001))&((V(A)-V(K))<0)&(Standard==0)),0,1)
*
****************************
* Pilot IHIL *
****************************
*
BE_IF10IL inIL 0 V=IF(((I(V_Viak))>(Ih/2)),1,0)
BE_IF5IH inIH 0 V=IF(((I(V_Viak))>(Ih/3)),1,0)
*
* Flip_flop IHIL
BE_IF6DIHIL SDIHIL 0 V=IF((V(inIL)*V(inIH)+V(inIH)*(1-V(inIL))*(V(CMDILIH)))>0.5,1,0)
C_CIHIL CMDILIH 0 1n
R_RIHIL SDIHIL CMDILIH 1K
R_RIHIL2 CMDILIH 0 100Meg
*
****************************
* Pilot IHILN *
****************************
*
BE_IF11ILn inILn 0 V=IF(((I(V_Vika))>(Ih/2)),1,0)
BE_IF3IHn inIHn 0 V=IF(((I(V_Vika))>(Ih/3)),1,0)
* Flip_flop IHILn
BE_IF4DIHILN SDIHILN 0 V=IF((V(inILn)*V(inIHn)+V(inIHn)*(1-V(inILn))*(V(CMDILIHN)))>0.5,1,0)
C_CIHILn CMDILIHN 0 1n
R_RIHILn SDIHILN CMDILIHN 1K
R_RIHILn2 CMDILIHN 0 100Meg
*
****************************
* Pilot VDRM *
****************************
BE_IF8Vdrm inVdrm 0 V=IF((ABS(V(A)-V(K))>(Vdrm*1.3)),1,0)
BE_IF9IHVDRM inIhVdrm 0 V=IF((I(V_Viak)>(Vdrm*1.3)/1.2meg)|(I(V_Vika)>(Vdrm*1.3)/1.2meg),1,0)
* Flip_flop VDRM
BE_IF7DVDRM SDVDRM 0 V=IF((V(inVdrm)+(1-V(inVdrm))*V(inIhVdrm)*V(CMDVdrm))>0.5,1,0)
C_CVdrm CMDVdrm 0 1n
R_RVdrm SDVDRM CMDVdrm 100
R_RVdrm2 CMDVdrm 0 100Meg
*
****************************
* Switch Model *
****************************
*.MODEL Smain VSWITCH Roff=1.2meg Ron={Rt} Voff=0 Von=100
.MODEL Smain SW Roff=1.2meg Ron={Rt} Vh=50 Vt=50
****************
* Diodes Model *
****************
.MODEL Dak D( Is=3E-12 Cjo=5pf)
.MODEL Dgk D( Is=1E-16 Cjo=50pf Rs=5)
.ends
*



*********************************************************************
* Snubberless & Logic Level Triac definition *
*********************************************************************
*$
.subckt T405-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=5ma Ih=10ma Rt=0.12 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T405-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=5ma Ih=10ma Rt=0.12 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T410-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.12 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T410-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=10ma Ih=15ma Rt=0.12 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T435-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.12 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T435-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.12 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-600TW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=5ma Ih=10ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB06-600TW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=5ma Ih=10ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB06-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-800TW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=5ma Ih=10ma Rt=0.06 Standard=0
* 2010 / ST / Rev 0
.ends
*$
.subckt BTB06-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA06-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=50ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB06-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.06 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T630-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=30ma Ih=50ma Rt=0.05 Standard=0
* 2010 / ST / Rev 0
.ends
*$
.subckt BTA08-600TW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=5ma Ih=10ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB08-600TW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=5ma Ih=10ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB08-800TW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=5ma Ih=10ma Rt=0.05 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA08-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB08-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA08-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.056 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB08-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA08-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA08-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=50ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB08-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.05 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T810-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.05 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T810-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=10ma Ih=15ma Rt=0.05 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T835-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.05 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T835-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.05 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA10-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.04 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA10-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.04 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA10-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.04 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA10-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=50ma Rt=0.04 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB10-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.04 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB10-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=50ma Rt=0.04 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA12-600TW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=5ma Ih=10ma Rt=0.035 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA12-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB12-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA12-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA12-800SW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=10ma Ih=15ma Rt=0.035 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA12-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB12-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB12-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA12-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA12-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=50ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB12-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.035 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T1210-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=10ma Ih=15ma Rt=0.035 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T1235-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.035 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T1235-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.035 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA16-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA16-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB16-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB16-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=35ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA16-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA16-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=50ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB16-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=50ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTB16-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=50ma Rt=0.025 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt BTA16-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.025 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB16-600SW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.025 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB16-800SW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=10ma Ih=15ma Rt=0.025 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T1610-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=10ma Ih=15ma Rt=0.025 Standard=0
* 2010 / ST / Rev 0
.ends
*$
.subckt T1610-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=10ma Ih=15ma Rt=0.025 Standard=0
* 2010 / ST / Rev 0
.ends
*$
.subckt T1620-600W A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=20ma Ih=35ma Rt=0.02 Standard=0
* 2008 / ST / Rev 1
.ends
*$
.subckt T1635-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=35ma Rt=0.025 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA20-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=50ma Rt=0.02 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA24-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=50ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA24-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=50ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB24-600CW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=50ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB24-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=50ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA24-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA24-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB24-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTB24-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA25-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA25-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T2535-600 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=35ma Ih=50ma Rt=0.016 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt T2535-800 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=50ma Rt=0.016 Standard=0
* 2008 / ST / Rev 0
.ends
*$
.subckt BTA26-800CW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=35ma Ih=50ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA26-600BW A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt BTA26-800BW A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=50ma Ih=75ma Rt=0.016 Standard=0
* 1999 / ST / Rev 0
.ends
*$
.subckt T2550-12 A K G
X1 A K G Triac_ST_ params: Vdrm=1200v Igt=50ma Ih=60ma Rt=0.02 Standard=0
* 2014 / ST / Rev 0
.ends
*
*********************************************************************
* Alternistors definition *
*********************************************************************
*
*$
.subckt TXDV812 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=100ma Ih=100ma Rt=0.04 Standard=0
* 2011 / ST / Rev 0
.ends
*$
.subckt TXDV1212 A K G
X1 A K G Triac_ST_ params: Vdrm=1200v Igt=100ma Ih=100ma Rt=0.04 Standard=0
* 2011 / ST / Rev 0
.ends
*$
.subckt TPDV640 A K G
X1 A K G Triac_ST_ params: Vdrm=600v Igt=200ma Ih=50ma Rt=0.012 Standard=0
* 2011 / ST / Rev 0
.ends
*$
.subckt TPDV840 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=200ma Ih=50ma Rt=0.012 Standard=0
* 2011 / ST / Rev 0
.ends
*$
.subckt TPDV1240 A K G
X1 A K G Triac_ST_ params: Vdrm=1200v Igt=200ma Ih=50ma Rt=0.012 Standard=0
* 2011 / ST / Rev 0
.ends
*$
.subckt TPDV825 A K G
X1 A K G Triac_ST_ params: Vdrm=800v Igt=150ma Ih=50ma Rt=0.019 Standard=0
* 2011 / ST / Rev 0
.ends
*$
.subckt TPDV1025 A K G
X1 A K G Triac_ST_ params: Vdrm=1000v Igt=150ma Ih=50ma Rt=0.019 Standard=0
* 2011 / ST / Rev 0
.ends
*$
.subckt TPDV1225 A K G
X1 A K G Triac_ST_ params: Vdrm=1200v Igt=150ma Ih=50ma Rt=0.019 Standard=0
* 2011 / ST / Rev 0
.ends